US08445505B2
A mixture of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (1.06 g, 4.86 mmol), 5-methyl-1H-pyrazol-3-amine (472.2 mg, 4.86 mmol) and sodium carbonate (2.06 g, 19.4 mmol) in 100 mL of EtOH was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. The crude solid was partitioned between EtOAc and water. The combined organic extracts were dried (Na2SO4), concentrated in vacuo, and purified by silica chromatography (EtOAc/hexanes: 1/1) to afford 2-chloro-N-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidin-4-amine; ESMS m/z 278.0 (M+H+).

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 4.86 mmol, 1.06 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 5-methyl-1H-pyrazol-3-amine | 4.86 mmol, 472.2 mg | CC1=CC(=NN1)N | C4H7N3
reactant | sodium carbonate | 19.4 mmol, 2.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-chloro-N-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C9H7ClF3N5
